US06987116B2
A mixture of 7-chlorothieno[3,2-b]pyridine-6-carbonitrile (200 mg, 1.03 mmol), 2,4-dichlorobenzylamine (217.6 mg, 0.17 mL, 1.24 mmol), N,N-diisopropylethylamine in 5 mL of 2-ethoxyethanol is heated at reflux for 4 hours. After cooling the mixture is concentrated in vacuo and the residue is treated with a saturated aqueous sodium bicarbonate solution for 1 hour. The precipitate is collected by filtration, washed with water, dried in vacuo, and then purified by flash column chromatography eluting with a gradient of 2% methanol in dichloromethane to 4% methanol in dichloromethane to provide 261.2 mg of 7-[(2,4-dichlorobenzyl)amino]thieno[3,2-b]pyridine-6-carbonitrile as a white solid, mp 215-216° C.; 1H NMR (DMSO-d6) δ 4.95 (d, J=5 Hz, 2H), 7.28 (d, J=6 Hz, 1H), 7.40 (dd, J=6, 2 Hz, 1H), 7.46 (dd, J=4, 2 Hz, 1H), 7.69 (d, J=2 Hz, 1H), 8.12 (d, J=5 Hz, 1H), 8.16 (m, 1H) 8.47 (d, J=6 Hz, 1H); MS 334.0, 335.8 (M+H)+.

reactant | 7-chlorothieno[3,2-b]pyridine-6-carbonitrile | 1.03 mmol, 200 mg | ClC1=C2C(=NC=C1C#N)C=CS2 | C8H3ClN2S
reactant | 2,4-dichlorobenzylamine | 1.24 mmol, 0.17 mL, 217.6 mg | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 2-ethoxyethanol | 5 mL | C(C)OCCO | C4H10O2
product | 7-[(2,4-dichlorobenzyl)amino]thieno[3,2-b]pyridine-6-carbonitrile | 261.2 mg | ClC1=C(CNC2=C3C(=NC=C2C#N)C=CS3)C=CC(=C1)Cl | C15H9Cl2N3S
